US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(6-CHLOROPYRIDIN-3-YL)METHYL]AMINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 6-chloropyridine-3-carbaldehyde to the procedure of step 1, Example 66. MS (ESI) m/z 504.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 6-chloropyridine-3-carbaldehyde | ClC1=CC=C(C=N1)C=O | C6H4ClNO
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(6-CHLOROPYRIDIN-3-YL)METHYL]AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC=1C=NC(=CC1)Cl)C(F)(F)F | C29H21ClF3N3
